US06462075B1
2,6-Dimethoxychalcone.
(39) To a solution of 2,6-dimethoxybenzaldehyde (250 mg, 1.50 mmol) and acetophenone (180 mg, 1.50 mmol) in 2.2 ml of methanol was added 1.0 ml of 40% sodium hydroxide in water at 10° C. After stirring overnight at room temperature, a solid precipitated. The precipitate was recrystallized from methanol to afford 350 mg (87.1%) of a white, flaky solid: mp 54.9-55.8° C. (lit. mp 54-55° C., Noyce and Jorgenson, J. Am. Chem. Soc., 1963, 85, 2420-2426). 1H NMR (250 MHz) δ 8.33-8.26 (d, 1H), 8.05-7.97 (m, 3H), 7.57-7.49 (m, 3H), 7.30 (m, 1H), 6.61-6.57 (d, 2H), 3.92 (s, 6H); 13C NMR 192.3, 160.6, 139.2, 136.0, 132.4, 131.7, 128.6, 125.1, 113.1, 105.8, 103.9, 56.0 ppm.

reactant | 2,6-dimethoxybenzaldehyde | 1.50 mmol, 250 mg | COC1=C(C=O)C(=CC=C1)OC | C9H10O3
reactant | acetophenone | 1.50 mmol, 180 mg | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | sodium hydroxide | 1.0 ml | [OH-].[Na+]
solvent | methanol | 2.2 ml | CO | CH4O
solvent | water | O | H2O
product | 2,6-Dimethoxychalcone | COC1=C(C(=CC=C1)OC)C=CC(=O)C1=CC=CC=C1 | C17H16O3
